US04782089
7-Benzoyl-1H-indole-3-propanoic acid
A 2.4 g (0.07 mole) sample of 2-[(7-benzoyl-1H-indol-3-yl)methyl]propanedioic acid was heated at 190° C. under vacuum until carbon dioxide evolution ceased (1/2 hr). The syrup was cooled to give 2.1 g (100%) of a yellow solid, m.p. 166.5°-168-5° C.

reactant | 2-[(7-benzoyl-1H-indol-3-yl)methyl]propanedioic acid | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(=CNC12)CC(C(=O)O)C(=O)O | C19H15NO5
reactant | carbon dioxide | C(=O)=O | CO2
product | 7-Benzoyl-1H-indole-3-propanoic acid | 2.1 g, 100% | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(=CNC12)CCC(=O)O | C18H15NO3
